US05093411
0.32 moles of butyl acrylate
7% by weight of trimethyl propane triacrylate 14.1 g of azobisisobutyronitrile.

reactant | trimethyl propane triacrylate | 14.1 g | C(C=C)(=O)O.C(C=C)(=O)O.C(C=C)(=O)O.CC(CC)(C)C
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
